US05968875
Sodium hydride (60%, 0.12 g, 3.0 mmol) was added to a solution of 3-chloro-2-hydroxymethyl-α-methyoxyimino-N-methyl-benzeneacetamide (0.43 g, 1.68 mmol) in dry THF (10 mL) and stirred for 10 minutes at 25° C. under N2 atmosphere. 5,6-Dichloronicotinic acid; t-butyl ester (0.44 g, 1.87 mmol) in 2-3 mL THF was added to this reaction mixture and stirred at 25° C. for about two hours. Water (40 mL) was added and the resulting mixture was extracted with ether (2×), dried (anhydrous Na2SO4), filtered and concentrated in vacuo to yield 0.72 g crude oil. The oil was chromatographed with dry pack silica gel (230-400 mesh) with descending solvent gradient from 100% petroleum ether to 80/20 pet ether/ethyl acetate as mobile phase. Elution and concentration gave α-(methoxyimino)-N-methyl-2-[[[3-chloro-5-(t-butoxycarbonyl)-2-pyridinyl]oxy]methyl]-3-chloro-benzeneacetamide (430 mg) as an oil. (95% E isomer; 5% Z isomer).

reactant | Sodium hydride | 3.0 mmol, 0.12 g | [H-].[Na+]
reactant | 3-chloro-2-hydroxymethyl-α-methyoxyimino-N-methyl-benzeneacetamide | 1.68 mmol, 0.43 g | ClC=1C(=C(C=CC1)C(C(=O)NC)=NOC)CO | C11H13ClN2O3
reactant | 5,6-Dichloronicotinic acid | ClC=1C(=NC=C(C(=O)O)C1)Cl | C6H3Cl2NO2
reactant | Water | 40 mL | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 2-3 mL | C1CCOC1 | C4H8O
product | α-(methoxyimino)-N-methyl-2-[[[3-chloro-5-(t-butoxycarbonyl)-2-pyridinyl]oxy]methyl]-3-chloro-benzeneacetamide | 430 mg | CON=C(C(=O)NC)C1=C(C(=CC=C1)Cl)COC1=NC=C(C=C1Cl)C(=O)OC(C)(C)C | C21H23Cl2N3O5
